US07456176B2
A solution of 3-bromobenzoic acid (4.0 g, 20 mmol) and EDC (3.83 g, 20 mmol) in 50 mL acetonitrile was added dropwise to a solution of (3R)-(+)-3-aminopyrrolidine (1.72 g, 20 mmol) in 100 mL acetonitrile. The reaction mixture was stirred at room temperature for 2 h and the solvent was removed. The residue was dissolved in 50 mL CH2Cl2 and washed with brine (50 mL). The organic phase was dried (MgSO4) and the solvent was removed. The crude product was purified by silica gel column chromatography (Rf=0.22, CH2Cl2/MeOH, 75:15) to give 3-bromo-N-pyrrolidin-3-yl-benzamide as a colorless solid (2.0 g, 37%). To a solution of the above precursor (1.14 g, 4.24 mmol) in 30 mL CH2Cl2 were added di-tert-butyldicarbonate (925 mg, 4.24 mmol) and triethylamine (596 μl, 4.24 mmol). The reaction mixture was stirred at room temperature for 1 h. The solvent was removed and the crude product was purified by silica gel column chromatography (Rf=0.66, CH2Cl2/MeOH, 90:10) to afford the title intermediate compound 106, as a viscous, colorless oil (1.1 g, 70%). MS (ESI+) m/z=369/371.

reactant | 3-bromobenzoic acid | 20 mmol, 4.0 g | BrC=1C=C(C(=O)O)C=CC1 | C7H5BrO2
reactant | EDC | 20 mmol, 3.83 g
reactant | (3R)-(+)-3-aminopyrrolidine | 20 mmol, 1.72 g | N[C@H]1CNCC1 | C4H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | 3-bromo-N-pyrrolidin-3-yl-benzamide | 2.0 g, 37% | BrC=1C=C(C(=O)NC2CNCC2)C=CC1 | C11H13BrN2O
